US04254274
Ethyl 4-(2-oxo-1-cyclopentylidenemethyl)phenylacetate
A mixture of 3.7 g of ethyl p-formylphenylacetate, 5.2 g of pyrrolidinocyclopentene and 20 ml of benzene was heated under reflux for 13 hours. After cooling, 5 ml of conc. hydrochloric acid and 5 ml of water were added to the reaction mixture and the resulting mixture was stirred at room temperature overnight. To the mixture added 100 ml of benzene, a benzene layer was separated, washed with water and dried over anhydrous sodium sulfate. Thereafter, the benzene was distilled off and the residue was subjected to a silica gel column chromatography. Elution was effected with benzene-ethyl acetate 50:1 to give an oily substance, which was then distilled under reduced pressure to afford 0.5 g of an oily substance having a boiling point of 175°-180° C./0.3 mmHg (bath temp.).

reactant | ethyl p-formylphenylacetate | 3.7 g | C(=O)C1=CC=C(C=C1)CC(=O)OCC | C11H12O3
reactant | pyrrolidinocyclopentene | 5.2 g | N1(CCCC1)C1=CCCC1 | C9H15N
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | water | 5 ml | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | Ethyl 4-(2-oxo-1-cyclopentylidenemethyl)phenylacetate | O=C1C(CCC1)=CC1=CC=C(C=C1)CC(=O)OCC | C16H18O3
